US07576089B2
1-(6-Bromopyridin-3-yl)-N,N-dimethylmethanamine
To a solution of titanium tetraisopropoxide (6.4 g, 22 mmol) and 2.0 M of dimethylamine in methanol (22 mL, 44 mmol), 6-bromo-pyridine-3-carbaldehyde (2.10 g, 11 mmol) in 20 mL of methanol was added. After being stirred at r. t. for 5 hrs, sodium borohydride (0.43 g, 11 mmol) was added and the mixture was stirred overnight. The reaction was quenched by addition of 10 mL of water and extracted twice using EtOAc. The combined extracts were dried and concentrated. After flash column using 20-40% methanol in EtOAc and 0.5% NH4OH, 1.15 g oil was obtained (47% yield), MS: (M+H)+ 214.0, 216.0.

reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | 6-bromo-pyridine-3-carbaldehyde | 11 mmol, 2.10 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | sodium borohydride | 11 mmol, 0.43 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | titanium tetraisopropoxide | 22 mmol, 6.4 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | methanol | 44 mmol, 22 mL | CO | CH4O
product | 1-(6-Bromopyridin-3-yl)-N,N-dimethylmethanamine | 1.15 g, 47% yield | BrC1=CC=C(C=N1)CN(C)C | C8H11BrN2
